US04888341
1,1a,2,8,8a,8b-Hexahydro-8-(hydroxymethyl)-8a-methoxy-5-methyl-6-(3-chloropropoxy)-azirino[2',3':3,4]pyrrolo[1,2-a]indole-4,7-dione carbamate
A solution of mitomycin A (100 mg) in 4 ml of 3-chloropropanol was stirred at room temperature and under nitrogen for 45 minutes with 240 mg of a 1.6% solution of KOH in 3-chloropropanol. The reaction mixture was decomposed with excess dry ice while immersing the flask into a water bath at room temperature. It was then isolated on a silica gel plate using ether, which elutes the allyl alcohol to the top of the plate (the plate was developed several times), followed by a mixture of chloroform-methanol 9:1 which elutes the product. This procedure gives 75 mg (64%) of the desired product, having a melting point of 142°-145° C. (decomposition) and providing the following analysis:

reactant | mitomycin A | 100 mg | CC1=C(C(=O)C2=C(C1=O)N3C[C@H]4[C@@H]([C@@]3([C@@H]2COC(=O)N)OC)N4)OC | C16H19N3O6
reactant | KOH | [OH-].[K+]
reactant | dry ice | C(=O)=O | CO2
reactant | allyl alcohol | C(C=C)O | C3H6O
reactant | 3-chloropropanol | 4 ml | ClCCCO | C3H7ClO
solvent | chloroform methanol | C(Cl)(Cl)Cl.CO
solvent | ether | CCOCC | C4H10O
product | 1,1a,2,8,8a,8b-Hexahydro-8-(hydroxymethyl)-8a-methoxy-5-methyl-6-(3-chloropropoxy)-azirino[2',3':3,4]pyrrolo[1,2-a]indole-4,7-dione carbamate | 75 mg, 64% | C(N)(O)=O.OCC1C2(N(C=3C(C(=C(C(C13)=O)OCCCCl)C)=O)CC1C2N1)OC | InChI=1S/C17H21ClN2O5.CH3NO2/c1-8-13(22)12-11(14(23)15(8)25-5-3-4-18)9(7-21)17(24-2)16-10(19-16)6-20(12)17;2-1(3)4/h9-10,16,19,21H,3-7H2,1-2H3;2H2,(H,3,4)
